US07465795B2
4-amino-8-(2-fluoro-4-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (125 mg, 0.40 mmol) and (2-fluoro-4-methoxyphenyl)boronic acid (136 mg, 0.80 mmol) were reacted to afford the title compound (93 mg, 66% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ8.56 (bs, 1H), 7.88 (dd, J=8.2, 1.5 Hz, 1H), 7.69-7.77 (m, 2H), 7.43 (t, J=8.3 Hz, 1H), 6.76-6.86 (m, 2H), 3.86 (s, 3H), 3.45 (apparent q, J=6.6 Hz, 2H), 1.65 (apparent sextet, J=7.2 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H). MS APCI, m/z=355 (M+H) HPLC 1.79 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.40 mmol, 125 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | (2-fluoro-4-methoxyphenyl)boronic acid | 0.80 mmol, 136 mg | FC1=C(C=CC(=C1)OC)B(O)O | C7H8BFO3
product | 4-amino-8-(2-fluoro-4-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide | 93 mg, 66% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=C(C=C1)OC)F)C(=O)NCCC | C19H19FN4O2
